US06414149B1
Step D: 2-Phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine hydrochloride
To a solution of 2-phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester (prepared according to the method of Example 101, Step C, 304 mg, 0.98 mmol) in ethyl acetate (2 mL) was added hydrogen chloride (2.5 M in ethyl acetate, 3.9 mL, 9.76 mmol). This mixture was stirred at room temperature for 16 h and concentrated to give 256 mg (>100%) of the title compound of Example 101, Step D as a pale yellow solid. 1H NMR (CD3OD, 400 MHz) δ8.75 (s, 1H), 8.42-8.38 (c, 2H), 7.51-7.45 (c, 3H), 4.48 (s, 2H), 3.68 (t, 2H) 3.35-3.25 (buried, 2H); MS (APCI) 212 (MH+).

reactant | 2-phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)C2=CC=CC=C2)CC1 | C18H21N3O2
reactant | hydrogen chloride | 9.76 mmol, 2.5 M, 3.9 mL | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 2-Phenyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine hydrochloride | 256 mg, >100% | Cl.C1(=CC=CC=C1)C=1N=CC2=C(N1)CCNC2 | InChI=1S/C13H13N3.ClH/c1-2-4-10(5-3-1)13-15-9-11-8-14-7-6-12(11)16-13;/h1-5,9,14H,6-8H2;1H
